US03948913
A solution containing 0.7 grams of anhydrous hydroxylamine in 50 milliliters of methanol was added to a solution containing 1.4 grams of 4-chloro-1-methyl-3-(5-nitro-2-furyl)-1H-pyrazolo[3,4-d]pyrimidine dissolved in 600 milliliters of ethanol, at a temperature of 30°C. and the mixture was allowed to stand for 30 minutes at room temperature. The mixture was gently heated at reflux for a further 15 minutes and cooled. The crystalline product was washed with ether and dried. Recrystallisation from dimethylformamide gave 4-hydroxyamino-1-methyl-3-(5-nitro-2-furyl)-1H-pyrazolo[3,4-d]pyrimidine, having melting point 294°C.

reactant | hydroxylamine | 0.7 grams | NO | H3NO
reactant | 4-chloro-1-methyl-3-(5-nitro-2-furyl)-1H-pyrazolo[3,4-d]pyrimidine | 1.4 grams | ClC1=C2C(=NC=N1)N(N=C2C=2OC(=CC2)[N+](=O)[O-])C | C10H6ClN5O3
solvent | methanol | 50 milliliters | CO | CH4O
solvent | ethanol | 600 milliliters | C(C)O | C2H6O
product | 4-hydroxyamino-1-methyl-3-(5-nitro-2-furyl)-1H-pyrazolo[3,4-d]pyrimidine | ONC1=C2C(=NC=N1)N(N=C2C=2OC(=CC2)[N+](=O)[O-])C | C10H8N6O4
